US05051413
0.74 g of E-2-formylamino-4-diethylphosphonomethyl-3,6-heptadienoic acid methyl ester is dissolved in 12 ml of dichloromethane, and 0.7 ml of trimethyliodosilane is added dropwise thereto. After stirring at room temperature for 4 hours, 1N sodium thiosulphate solution is added until the colour of the reaction solution becomes lighter. 10 ml of a 4.5N hydrochloric acid solution are then added to the reaction mixture, which is then stirred at room temperature for 30 minutes. The aqueous phase is separated off, washed twice with 20 ml of dichloromethane each time, and concentrated by evaporation in vacuo. The residue is dissolved in 10 ml of4.5N hydrochloric acid, stirred at room temperature for 16 hours, and then concentrated by evaporation in vacuo. The residue so obtained is taken up in 40 ml of ethanol and filtered until clear, and then 10 ml of propylene oxide/ethanol (1:1) are added dropwise. The resulting white precipitate isfiltered off and purified by column chromatography (Dowex 50×8/H2O). Concentration yields E-2-amino-4-phosphonomethyl-3,6-heptadienoic acid in the form of a white crystallisate, m.p. 154°-157°, 1H-NMR (D2O): 2.64 (d, 2H, P--CH2); 3.15 (m, 2H, C(5)--H); 5.20 (m, 2H, C(7)--H); 5.50 (dd, 1 H, C(3)--H); 5.90 (m, 1 H, C(6)--H).

reactant | E-2-formylamino-4-diethylphosphonomethyl-3,6-heptadienoic acid methyl ester | 0.74 g | COC(C(\C=C(/CC=C)\CP(=O)(OCC)OCC)NC=O)=O | C14H24NO6P
reactant | trimethyliodosilane | 0.7 ml | C[Si](I)(C)C | C3H9ISi
reactant | sodium thiosulphate | 1N | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 4.5N | Cl | ClH
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | E-2-amino-4-phosphonomethyl-3,6-heptadienoic acid | NC(C(=O)O)\C=C(/CC=C)\CP(=O)(O)O | C8H14NO5P
